US06303618B1
2-Amino-trimethylpurin-6-ylammonium chloride
Anhydrous trimethylamine was bubbled through a solution of 2-amino-6-chloropurine (10 g, 59 mmol) in anhydrous N,N-dimethylformamide (80 ml) for 30 min and the reaction stirred at room temperature for 12 h under a stream of nitrogen. The crude product was collected by filtration, dissolved in the minimum amount of cold water and the product precipitated out by the addition of acetone. The title compound was collected as a white solid (9.96 g, 74%)(m.p. 205-206° C.). (Found C, 41.8; H, 5.6; N, 36.9 C10H13N5O requires C, 42.1; H, 5.7; N, 36.8%). νmax/cm−1 3460 (NH2), 3320 (NH), 1640 (C═C), 1570 (C═C); λmax (CH3OH)/nm 316; δH (200 MHz, d6-DMSO) 13.40 (1H, br s, NH), 8.35 (1H, s, C(8)H), 7.10 (2H, s, NH2), 3.70 (9H, s, N(CH3)3); δC (50.3 MHz, d6-DMSO) 159.5 (C6), 154.9 (C2), 153.5 (C4), 135.0 (C8), 113.6 (C5), 37.8 (3×CH3); m/z (FAB) 192 (M+—Cl, 8%), 178 (MH+—CH3Cl, 72), 163 (MH+—(CH3)2Cl, 35), 149 (MH2+—(CH3)3Cl, 100), 134 (MH+—N(CH3)3Cl, 45).

reactant | trimethylamine | CN(C)C | C3H9N
reactant | 2-amino-6-chloropurine | 59 mmol, 10 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
solvent | N,N-dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-Amino-trimethylpurin-6-ylammonium chloride | [Cl-].NC1=NC(=C2NC=NC2=N1)[N+](C)(C)C | InChI=1S/C8H13N6.ClH/c1-14(2,3)7-5-6(11-4-10-5)12-8(9)13-7;/h4H,1-3H3,(H3,9,10,11,12,13);1H/q+1;/p-1
